* Generated by electronics_design from a KiCad schematic
.include "lvc1g14.ibs"
XU2 0 in2 74LVC1G14_GM
T1 out1 0 in2 0 Zo=50 Td=1n
R1 in2 0 50
XU1 0 out1 74LVC1G14_GM ton=3e-9 toff=3e-9 td=1e-9 n=3
.tran 1
.backanno
.end
